US06949536B2
1-(4-Acetylphenyl-2-bromo-1-ethanone (Step 1)
To a stirred solution of 1,4-diacetylbenzene (5.3 g, 32.7 mmol), aluminum chloride (0.05 g, 0.38 mmol) in diethylether (50 ml) was added bromine (5.3 g, 32.7 mmol) dropwise over 20 minutes. The mixture was stirred for 30 minutes, and diluted with water. The whole was concentrated to remove diethylether, and the aqueous suspension was filtered to give 7.0 g of white solid. The compound was used for next reaction without purification.

reactant | 1,4-diacetylbenzene | 32.7 mmol, 5.3 g | C(C)(=O)C1=CC=C(C=C1)C(C)=O | C10H10O2
reactant | bromine | 32.7 mmol, 5.3 g | BrBr | Br2
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | aluminum chloride | 0.38 mmol, 0.05 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-Acetylphenyl-2-bromo-1-ethanone | 7.0 g | C(C)(=O)C1=CC=C(C=C1)C(CBr)=O | C10H9BrO2
